US07495001B2
In analogy to the procedures described in example 4D] and 4E], 2-(3-hydroxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester (example 14C]) was reacted with [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol (example 1I]) to give 2-methyl-2-{3-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-naphthalen-1-yloxy}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow solid.

reactant | 2-(3-hydroxy-naphthalen-1-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC2=CC=CC=C12)O)=O | C16H18O4
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO
product | 2-methyl-2-{3-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-naphthalen-1-yloxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC(=CC2=CC=CC=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C30H28F3NO4
